US08293735B2
(±)-2-Chloro-4-morpholin-4-yl-6-[4-(tetrahydro-furan-3-yl)-piperazin-1-ylmethyl]-thieno[3,2-d]pyrimidine
Prepared from 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde and 1-(tetrahydro-furan-3-yl-piperazine under reductive amination conditions described in Reference Example 39, to give after silica chromatography, the title compound as a white solid (217 mg, 60%).

reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | tetrahydro-furan-3-yl-piperazine | O1CC(CC1)N1CCNCC1 | C8H16N2O
product | (±)-2-Chloro-4-morpholin-4-yl-6-[4-(tetrahydro-furan-3-yl)-piperazin-1-ylmethyl]-thieno[3,2-d]pyrimidine | 217 mg, 60% | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C2COCC2)N2CCOCC2 | C19H26ClN5O2S
